US06313312B1
2-Methyl-1-(3-nitrophenyl)-1-propanone hydrazone
To a partially dissolved solution of 2-methyl-1-(3-nitrophenyl)-1-propanone (Preparation 55, 1.0 g, 5.2 mmol) in industrial methylated spirits (6 ml) was added dropwise hydrazine hydrate monohydrate (0.5 ml, 10.4 nmuol). The reaction mixture was refluxed for 16 h, before cooling to room temperature and pouring into ice and water (50:50, 15 ml) giving a very fine white precipitate in a yellow solution. The mixture was extracted with diethyl ether (2×50 ml), the combined organic extracts were washed with brine and dried (MgSO4), before concentrating to give an amber oil. The crude product was purified by chromatography on silica gel cluting with dichloromethane:ethyl acetate (19:1) to give the title compound as a mixture of cis and trans hydazones (0.54 g, 50%).

reactant | 2-methyl-1-(3-nitrophenyl)-1-propanone | 5.2 mmol, 1.0 g | CC(C(=O)C1=CC(=CC=C1)[N+](=O)[O-])C | C10H11NO3
reactant | hydrazine hydrate monohydrate | 0.5 ml | O.O.NN
solvent | water | 15 ml | O | H2O
product | 2-Methyl-1-(3-nitrophenyl)-1-propanone hydrazone | CC(C(=NN)C1=CC(=CC=C1)[N+](=O)[O-])C | C10H13N3O2
